US06797726B1
In 5 mL of methylene chloride is dissolved 0.50 g of 2-{[2-(2-benzo[b]thiophen-5-ylethoxy)ethyl]-(methyl)amino}-1-ethanol. The solution thus obtained is cooled to −60° C., to which are added 0.37 mL of triethylamine and 0.31 mL of pivaloyl chloride. The mixture is stirred at the same temperature as above for 30 minutes and then at ambient temperature for one hour. Water is added to the reaction mixture, pH is adjusted to 9.0 with 1 mol/L aqueous solution of sodium hydroxide, and the organic layer is separated. The organic layer is washed with saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, the solvent is distilled off under reduced pressure, and the residue is purified by column chromatography (eluent: chloroform:methanol=100:1 to 50:1) to obtain 0.54 g of 2-{[2-(2-benzo[b]thiophen-5-ylethoxy)ethyl](methyl)amino}ethyl pivalate as an oily product.

reactant | 2-{[2-(2-benzo[b]thiophen-5-ylethoxy)ethyl]-(methyl)amino}-1-ethanol | 0.50 g | S1C2=C(C=C1)C=C(C=C2)CCOCCN(CCO)C | C15H21NO2S
reactant | triethylamine | 0.37 mL | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.31 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 2-{[2-(2-benzo[b]thiophen-5-ylethoxy)ethyl](methyl)amino}ethyl pivalate | 0.54 g | C(C(C)(C)C)(=O)OCCN(C)CCOCCC1=CC2=C(SC=C2)C=C1 | C20H29NO3S
